US07834051B2
tert-butyl[(1S)-1-ethyl-2-oxopropyl]carbamate
A solution of tert-butyl{(1S)-1-[methoxy(methyl)carbamoyl]propyl}carbamate (15.0 g) in tetrahydrofuran (150 mL) was cooled using dry ice/acetone under a nitrogen atmosphere, and 1.0 mol/L-methyllithium/diethyl ether solution (300 mL) was added. The mixture was stirred at the same temperature for 4 hr, saturated aqueous ammonium chloride solution (300 mL) was added to the reaction solution, and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with saturated aqueous ammonium chloride solution and saturated brine, dried over anhydrous magnesium sulfate, and concentration under reduced pressure to give the title compound as a colorless oil (yield: 12.75 g).

reactant | tert-butyl{(1S)-1-[methoxy(methyl)carbamoyl]propyl}carbamate | 15.0 g | C(C)(C)(C)OC(N[C@@H](CC)C(N(C)OC)=O)=O | C11H22N2O4
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | methyllithium diethyl ether | 300 mL | C[Li].C(C)OCC
reactant | ammonium chloride | 300 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | tert-butyl[(1S)-1-ethyl-2-oxopropyl]carbamate | yield: 12.75 g | C(C)(C)(C)OC(N[C@H](C(C)=O)CC)=O | C10H19NO3
